US05106871
Then, 20 ml of methanol was added to 5.19 g of the so-obtained 2'-hydroxy-3,4,4',6'-tetrakis(methoxymethoxy)chalcone, and 40 ml of a hydrochloric acid/methanol reagent was added to the formed suspension and the mixture was stirred at 60° C. for 15 minutes. After the reaction, the reaction liquid was poured into water, and the precipitated crystal was recovered by filtration, washed with water and dried to obtain 2.81 g (yield=87.2%) of a crude crystal. The crude crystal was subjected to the column chromatography (200 g of 240-400 mesh Kieselgel 60; 0.3 kg/cm2 ; eluting solvent hexane/ethyl acetate=2/1, 2700 ml, hexane/ethyl acetate=1/1). Fractions of 50 ml were collected and the 92nd to 149th fractions were combined and concentrated to dryness to obtain 1.06 g (yield=32.9%) of 2',3,4,4',6'-pentahydroxychalcone.

reactant | methanol | 20 ml | CO | CH4O
reactant | 2'-hydroxy-3,4,4',6'-tetrakis(methoxymethoxy)chalcone | 5.19 g | OC1=C(C(C=CC2=CC(=C(C=C2)OCOC)OCOC)=O)C(=CC(=C1)OCOC)OCOC | C23H28O10
reactant | hydrochloric acid methanol | 40 ml | Cl.CO
reactant | water | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2',3,4,4',6'-pentahydroxychalcone | 1.06 g, yield=32.9% | OC1=C(C(C=CC2=CC(=C(C=C2)O)O)=O)C(=CC(=C1)O)O | C15H12O6
